US08227635B2
Reaction of styrene with Grubbs' second generation catalyst for 6 hours, followed by reaction of the subsequent product with 5 equivalents of site-isolated MCPBA for 14 hours gave trans-stilbene oxide in 83% yield. The 1H and 13C NMR spectra agreed with those reported in the literature. 1H NMR (CDCl3): 7.33-7.38 (m, 10H), 3.87 (s, 213C NMR (CDCl3): 62.81, 125.47, 128.29, 128.53, 137.07.

reactant | styrene | C=CC1=CC=CC=C1 | C8H8
reactant | MCPBA | 5 equivalents | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
catalyst | Grubbs' second generation | Cl[Ru]([P](C1CCCCC1)(C2CCCCC2)C3CCCCC3)(=CC4=CC=CC=C4)(Cl)=C5N(C6=C(C)C=C(C)C=C6C)CCN5C7=C(C)C=C(C)C=C7C
product | trans-stilbene oxide | 83% yield | C=1C=CC(=CC1)[C@@H]2[C@H](O2)C=3C=CC=CC3 | C14H12O
